US07148234B2
STEP 1. 2-{4-[(6-chloro-2-methyl-5-nitro-4-pyrimidinyl)amino]phenyl}ethanol
To a stirred solution of 4,6-dichloro-2-methyl-5-nitro-pyrimidine (Albert et al., J. Chem. Soc., 1954, 3832, 7.5 g, 36.1 mmol) in THF (150 ml) was added 4-aminophenylethyl alcohol (2.47 g, 18.0 mmol), triethylamine (3.65 g, 36.1 mmol), and the mixture was stirred at room temperature for 1 h. The reaction was quenched with water (10 ml), and the mixture was extracted with ethyl acetate (100 ml×3). The organic layer was washed with brine (50 ml), dried (MgSO4), and concentrated. Purification by flash column chromatography eluting with hexane/ethyl acetate (gradient elution from 1:1 to 1:2) to afford 4.0 g (72%) of the title compound as a yellow solid.

reactant | 4,6-dichloro-2-methyl-5-nitro-pyrimidine | 36.1 mmol, 7.5 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C | C5H3Cl2N3O2
reactant | 4-aminophenylethyl alcohol | 18.0 mmol, 2.47 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | triethylamine | 36.1 mmol, 3.65 g | C(C)N(CC)CC | C6H15N
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-{4-[(6-chloro-2-methyl-5-nitro-4-pyrimidinyl)amino]phenyl}ethanol | 4.0 g, 72% | ClC1=C(C(=NC(=N1)C)NC1=CC=C(C=C1)CCO)[N+](=O)[O-] | C13H13ClN4O3
